US07915443B2
3-Ethynyl-N-methoxy-benzamide
In a manner similar to that described for Example 478 (step 1), 3-ethynylbenzoic acid (0.1 g, 0.685 mmol) and O-methylhydroxylamine hydrogen chloride (0.057 g, 0.685 mmol) were reacted to give the title compound (0.128 g, 61%).

reactant | 3-ethynylbenzoic acid | 0.685 mmol, 0.1 g | C(#C)C=1C=C(C(=O)O)C=CC1 | C9H6O2
reactant | O-methylhydroxylamine hydrogen chloride | 0.685 mmol, 0.057 g | Cl.CON
product | 3-Ethynyl-N-methoxy-benzamide | 0.128 g, 61% | C(#C)C=1C=C(C(=O)NOC)C=CC1 | C10H9NO2
